US05075179
100,000 parts of steel balls, 5,000 parts of the 12.5% strength solution of the polyurethane elastomer stated in Example A, 3,000 parts of a 10% strength solution of a polyvinylformal, consisting of 82% of vinylformal, 12% of vinyl acetate and 6% of vinyl alcohol units, 135 parts of N-tallow fat-1,3-diaminodioleate, 270 parts of zinc stearate, 40 parts of polyisobutene (C24 -C28), 185 parts of 2-(2-hydroxy-5-methylphenyl)-2H-benzotriazole and 13,500 parts of a ferromagnetic chromium dioxide pigment having a mean particle size of 0.5 μm and a length/width ratio of 4:1 and 4,500 parts of tetrahydrofuran were introduced into a steel ball mill having a capacity of 100,000 parts by volume, and dispersing was carried out for 70 hours. Thereafter, 11,000 parts (12.5% strength) of polymer A and 7,000 parts of the stated 10% strength polyvinylformal solution were added and dispersing was continued for a further 20 hours. The dispersion was then removed from the mill and filtered under pressure through a filter having a pore diameter of 5 μm. After the filtration process, 17 g of a 50% strength solution of a triisocyanate, obtained from 3 moles of toluylenediisocyanate and 1 mole of trimethylolpropane, were added per kg of dispersion with vigorous stirring. The dispersion was then applied to an 8 μm thick polyethylene terephthalate film by means of a conventional knife coater. The coated film was passed through a magnetic field to orient the magnetic particles and then dried at from 50° to 90° C. After drying, the magnetic layer was compacted and calendered, so that it was 5 μm thick. The coated film was then slit into 3.8=1 mm wide tapes.

reactant | polyvinylformal | CC(=O)OC=C.C=CO.C=COCOC=C
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | vinyl alcohol | C(=C)O | C2H4O
reactant | 2-(2-hydroxy-5-methylphenyl)-2H-benzotriazole | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC=C2 | C13H11N3O
catalyst | zinc stearate | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[Zn+2].C(CCCCCCCCCCCCCCCCC)(=O)[O-]
catalyst | chromium dioxide | [O-2].[O-2].[Cr+4]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | trimethylolpropane | 1 mole | C(O)C(CC)(CO)CO | C6H14O3
